US08735589B2
Preparation of 2-[3-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-1H-indol-5-yl]-ethanesulfonic Acid Methylamide
2-(1H-indol-5-yl)-ethanesulfonic acid methylamide (100 g) was dissolved in methanol (1000 ml) and N-methyl-4-piperidone (200 ml) was added thereto at 25° C. The reaction mass was stirred for 15 minutes and potassium hydroxide (300 g) was added at 25° C. The reaction mass was heated to 60-65° C. for 8 hours and cooled gradually to 25° C. Water (1500 ml) was added slowly and stirred the mixture till solid was obtained. The solid was filtered and dried at 50-55° C. under vacuum to obtain the title compound. (Yield: 80 g, HPLC Purity: 99%)

reactant | 2-(1H-indol-5-yl)-ethanesulfonic acid methylamide | 100 g | CNS(=O)(=O)CCC=1C=C2C=CNC2=CC1 | C11H14N2O2S
reactant | N-methyl-4-piperidone | 200 ml | CN1CCC(CC1)=O | C6H11NO
reactant | potassium hydroxide | 300 g | [OH-].[K+]
reactant | Water | 1500 ml | O | H2O
solvent | methanol | 1000 ml | CO | CH4O
product | 2-[3-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-1H-indol-5-yl]-ethanesulfonic Acid Methylamide | CNS(=O)(=O)CCC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C17H23N3O2S
